* Three-stage RC-coupled common-emitter BJT ring oscillator — bring-up rung 6.
* VCC=5V; mismatched per-stage R values break the exact 3-way DC symmetry (a real circuit's
* component tolerances always do this; a deterministic solver needs it broken explicitly —
* see va-abi::reference::Bjt's own doc comment / va-transient's hand-built fixture this deck
* mirrors). Stage n: Rb(vcc,base_n) sets the base bias; Rc(vcc,coll_n) is the collector load;
* Q(coll_n,base_n,gnd) is a common-emitter BJT; C(coll_n,base_(n+1)) AC-couples to the next
* stage, closing the ring at stage 3's collector -> stage 1's base.
VCC vcc gnd DC 5.0
* Stage 1: base=b1, collector=c1.
R1a vcc b1 3.3Meg
R1b vcc c1 20k
Q1  c1  b1 gnd bjt
C1  c1  b2 10n
* Stage 2: base=b2, collector=c2.
R2a vcc b2 3.4Meg
R2b vcc c2 19k
Q2  c2  b2 gnd bjt
C2  c2  b3 10n
* Stage 3: base=b3, collector=c3 — couples back to stage 1's base, closing the ring.
R3a vcc b3 3.5Meg
R3b vcc c3 21k
Q3  c3  b3 gnd bjt
C3  c3  b1 10n
.tran 100u 0.2
.end
