* Three-stage RC-coupled common-emitter BJT ring oscillator — bring-up rung 6.
* VCC=5V; mismatched per-stage R values break the exact 3-way DC symmetry (a real circuit's
* component tolerances always do this; a deterministic solver needs it broken explicitly —
* see va-abi::reference::Bjt's own doc comment / va-transient's hand-built fixture this deck
* mirrors). Stage n: Rb(vcc,base_n) sets the base bias; Rc(vcc,coll_n) is the collector load;
* Q(coll_n,base_n,gnd) is a common-emitter BJT; C(coll_n,base_(n+1)) AC-couples to the next
* stage, closing the ring at stage 3's collector -> stage 1's base.
VCC vcc gnd DC 5.0
* Stage 1: base=b1, collector=c1.
R1a vcc b1 3.3Meg
R1b vcc c1 20k
Q1  c1  b1 gnd bjt
C1  c1  b2 10n
* Stage 2: base=b2, collector=c2.
R2a vcc b2 3.4Meg
R2b vcc c2 19k
Q2  c2  b2 gnd bjt
C2  c2  b3 10n
* Stage 3: base=b3, collector=c3 — couples back to stage 1's base, closing the ring.
R3a vcc b3 3.5Meg
R3b vcc c3 21k
Q3  c3  b3 gnd bjt
C3  c3  b1 10n
.tran 100u 0.2 UIC
.end
